US07534788B2
Step 2: 2-Hydroxy-5-methoxy-4-methyl-benzaldehyde
The above prepared 2,5-Dimethoxy-4-methyl-benzaldehyde (4.153 g, 23 mmol) was dissolved in 115 mL of acetonitrile and treated successively with sodium iodide (5.18 g, 1.5 eq.) and AlCl3 (3.07 g, 1.0 eq.), and the mixture kept at 80° C. for 1 h. Cooling, pouring onto crashed ice, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9/1), gave 3.80 g of the title compound as off-white solid.

reactant | 2,5-Dimethoxy-4-methyl-benzaldehyde | 23 mmol, 4.153 g | COC1=C(C=O)C=C(C(=C1)C)OC | C10H12O3
reactant | sodium iodide | 5.18 g, 1.5 eq. | [I-].[Na+]
reactant | AlCl3 | 3.07 g, 1.0 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | acetonitrile | 115 mL | C(C)#N | C2H3N
product | 2-Hydroxy-5-methoxy-4-methyl-benzaldehyde | 3.80 g | OC1=C(C=O)C=C(C(=C1)C)OC | C9H10O3
